US06498166B1
iv) 6-Chloro-2-(4-Fluorophenyl)pyrazolo[1,5-a]pyridine
Solid t-butoxycarbonyl-O-mesitylenesulfonylhydroxylamine (8.45 g 26.8 mmol) was added portionwise with stirring to TFA (100 ml) over 10 min then stirred for a further 30 minutes. The solution was poured onto ice (˜250 ml) and left until the ice melted. The resulting white solid was filtered off, washed with water, and dissolved in chloroform (200 ml). The solution was dried over 4 Å mol. sieves for 1.5 hours, filtered and 2-(5-chloropyridin-2-yl)-1-(4-fluorophenyl)ethanone oxime (3.56 g 13.4 mmol) in chloroform (100 ml) was added. The reaction was stirred at room temperature for 18 hours, washed with water (2×50 ml) and dried. Removal of solvent gave a brown solid which was purified by Biotage chromatography. Elution with cyclohexanelethyl acetate (35/1) gave the title compound as a yellow solid (2.476 g 75%). NMR (CDCl3) δ 6.76 (1H, s, H-3); 7.08 (1H, dd, J 9 & 2 Hz, H-5); 7.13 (2H, t, J 9 Hz, H-3′); 7.45 (1H, d, J 9 Hz, H-4); 7.9 (2H, dd, J 9 & 5 Hz, H-2′); 8.5 (1H, d, J 2 Hz, H-7);

reactant | t-butoxycarbonyl-O-mesitylenesulfonylhydroxylamine | 26.8 mmol, 8.45 g | C(C)(C)(C)OC(=O)NOS(=O)(=O)C1=C(C=C(C=C1C)C)C | C14H21NO5S
reactant | TFA | 100 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 2-(5-chloropyridin-2-yl)-1-(4-fluorophenyl)ethanone oxime | 13.4 mmol, 3.56 g | ClC=1C=CC(=NC1)CC(=NO)C1=CC=C(C=C1)F | C13H10ClFN2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-Chloro-2-(4-Fluorophenyl)pyrazolo[1,5-a]pyridine | 2.476 g, 75% | ClC=1C=CC=2N(C1)N=C(C2)C2=CC=C(C=C2)F | C13H8ClFN2
